US07547701B2
Methyl 2(R)-tert-butoxycarbonylamino-3-(pyrazin-2-ylmethanesulfonyl)propionate was dissolved in THF (5 mL) and a solution of HCl/dioxane (4.0 M, 2.9 mL) was added. After stirring for 48 h, the solvent was removed in vacuo and the residue was precipitated with diethyl ether and dried under vacuum to give methyl 2(R)-amino-3-(pyrazin-2-ylmethanesulfonyl)propionate which was converted to the title compounds utilizing the procedure described in Example 4 above.

reactant | Methyl 2(R)-tert-butoxycarbonylamino-3-(pyrazin-2-ylmethanesulfonyl)propionate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CS(=O)(=O)CC1=NC=CN=C1 | C14H21N3O6S
reactant | HCl dioxane | 4.0 M, 2.9 mL | Cl.O1CCOCC1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 2(R)-amino-3-(pyrazin-2-ylmethanesulfonyl)propionate | N[C@H](C(=O)OC)CS(=O)(=O)CC1=NC=CN=C1 | C9H13N3O4S
